US04990508
In 4 ml of N,N-dimethylformamide was suspended 200 mg of ethyl (S)-10-(2-carboxycyclopropyl)-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]-benzoxazine-6-carboxylate. To the resulting suspension were added, with ice-cooling, 70 mg of ethyl chlorocarbonate and 65 mg of triethylamine. The resulting mixture was stirred at the same temperature for 15 minutes. To the reaction mixture was added 45 mg of sodium azide with ice-cooling. The resulting mixture was stirred at the same temperature for 1 hour. To the reaction mixture were added 20 ml of chloroform and 20 ml of water in this order. The resulting mixture was adjusted to pH 1 with 2N hydrochloric acid. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. To the residue obtained were added 5 ml of dioxane and 115 mg of benzyl alcohol in this order. The resulting mixture was stirred at 100° C. for 1.5 hours. The reaction mixture was concentrated under reduced pressure. The residue obtained was purified by a column chromatography (eluant: chloroform/ethanol=15/1) to obtain 160 mg (yield: 64.0%) of ethyl (S)-10-(2-benzyloxycarbonylaminocyclopropyl)-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6carboxylate.

reactant | ethyl (S)-10-(2-carboxycyclopropyl)-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]-benzoxazine-6-carboxylate | 200 mg | C(=O)(O)C1C(C1)C=1C(=CC2=C3N([C@H](COC31)C)C=C(C2=O)C(=O)OCC)F | C19H18FNO6
reactant | ethyl chlorocarbonate | 70 mg | C(OCC)(=O)Cl | C3H5ClO2
reactant | sodium azide | 45 mg | [N-]=[N+]=[N-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | benzyl alcohol | 115 mg | C(C1=CC=CC=C1)O | C7H8O
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | water | 20 ml | O | H2O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 65 mg | C(C)N(CC)CC | C6H15N
product | ethyl (S)-10-(2-benzyloxycarbonylaminocyclopropyl)-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6carboxylate | 160 mg, yield: 64.0% | C(C1=CC=CC=C1)OC(=O)NC1C(C1)C=1C(=CC2=C3N([C@H](COC31)C)C=C(C2=O)C(=O)OCC)F | C26H25FN2O6
